US07423030B2
1.4. 7-Methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]-4-phenylphthalazin-1-amine
373 mg (1.5 mmol) of 4-amino-1-(naphthalen-2-ylmethyl)piperidine and 69 mg (1.3 mmol) of ammonium chloride are added to a suspension of 350 mg (1.3 mmol) of 4-chloro-6-methoxy-1-phenylphthalazine in 6 mL of n-butanol. The mixture is heated at 135° C. for 20 hours. The reaction medium is cooled to room temperature, hydrolysed with 50 mL of water and then basified to pH 10 with 1 N sodium hydroxide solution. The mixture is then extracted with ethyl acetate. The organic phase is washed with brine, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel (solvent: 95/5 (v/v) dichloromethane/methanol). The yellow oil thus obtained forms a solid by trituration in isopropyl ether. After filtering and drying, 275 mg of product are obtained in the form of a beige-coloured powder.

reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | 1.5 mmol, 373 mg | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
reactant | ammonium chloride | 1.3 mmol, 69 mg | [Cl-].[NH4+]
reactant | 4-chloro-6-methoxy-1-phenylphthalazine | 1.3 mmol, 350 mg | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC=CC=C1 | C15H11ClN2O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | n-butanol | 6 mL | C(CCC)O | C4H10O
solvent | water | 50 mL | O | H2O
product | 7-Methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]-4-phenylphthalazin-1-amine | 275 mg | COC1=CC=C2C(=NN=C(C2=C1)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C31H30N4O
